US08492549B2
Intermediate A14: (R)-2,3-Dihydrobenzo[1,4]dioxin-2-yl-[(S*)-3-(3-methoxyphenyl)piperidin-1-yl]methanone
(R)-2,3-Dihydrobenzo[1,4]dioxine-2-carbonyl chloride (54 mg, 0.27 mmol) was dissolved in DCM (4 ml). 3-(3-Methoxyphenyl)piperidine HCl (72 mg, 0.26 mmol) and triethylamine (59 mg, 0.58 mmol) were added. After stirring for 1 h, acidic work-up as above gave the crude product, which was purified by flash chromatography using heptane/EtOAc as eluent. The second eluting diastereomer was collected to give 19 mg of A14.

reactant | (R)-2,3-Dihydrobenzo[1,4]dioxine-2-carbonyl chloride | 0.27 mmol, 54 mg | O1[C@H](COC2=C1C=CC=C2)C(=O)Cl | C9H7ClO3
reactant | 3-(3-Methoxyphenyl)piperidine HCl | 0.26 mmol, 72 mg | Cl.COC=1C=C(C=CC1)C1CNCCC1
reactant | triethylamine | 0.58 mmol, 59 mg | C(C)N(CC)CC | C6H15N
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
product | (R)-2,3-Dihydrobenzo[1,4]dioxin-2-yl-[(S*)-3-(3-methoxyphenyl)piperidin-1-yl]methanone | O1[C@H](COC2=C1C=CC=C2)C(=O)N2C[C@@H](CCC2)C2=CC(=CC=C2)OC | C21H23NO4
